US04140775
In the manner given in Example 1B, 1-(o-chlorophenyl)-4(p-nitrobenzyl)piperazine is reduced with aqueous titanium trichloride to give 1-(o-chlorophenyl)-4-[(4-aminophenyl)]piperazine.

reactant | 1-(o-chlorophenyl)-4(p-nitrobenzyl)piperazine | ClC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H18ClN3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(o-chlorophenyl)-4-[(4-aminophenyl)]piperazine | ClC1=C(C=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C16H18ClN3
